US07910740B2
[5-(4-Chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 1 step e) from 72 mg (0.33 mmol) 3-chloro-4-(4-chlorophenyl)-2-butanone and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude product was purified on silica gel with methylene chloride/methanol 9/1 yielding 78 mg (61%) [5-(4-chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a light brown solid. MS ISP (m/e): 425.1/427.1 (100/42) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.15 (s, 1H), 7.64 (s, 1H), 7.52 (s, 1H), 7.37 (d, 2H), 7.26 (d, 2H), 7.23 (s, 2H), 3.98 (s, 2H), 3.77 (s, 3H), 2.23 (s, 3H), 2.14 (s, 3H).

reactant | 3-chloro-4-(4-chlorophenyl)-2-butanone | 0.33 mmol, 72 mg | ClC(C(C)=O)CC1=CC=C(C=C1)Cl | C10H10Cl2O
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | [5-(4-Chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=CC=C(CC2=C(N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C)C=C1 | C22H21ClN4OS
